US09029409B2
To a solution of 6-chloropyridazin-3-ol (0.5 g, 3.83 mmol, WO2011015629) in DMF (5 mL) was added potassium carbonate (1.059 g, 7.66 mmol, Rankem) followed by ethyl 2-bromoacetate (0.960 g, 5.75 mmol, Spectrochem). The reaction mixture was stirred at RT for 5 h. The reaction mixture was quenched with water (2 mL) and the product was extracted with EtOAc (3×20 mL). Combined organic layers were washed successively with water (20 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and evaporated under vacuum to afford ethyl 2-(3-chloro-6-oxopyridazin-1(6H)-yl)acetate 0.5 g (60.3%) as pale yellow solids. 1H NMR (400 MHz, CDCl3): δ 7.266-7.236 (d, J=12 Hz, 1H), 6.965-6.945 (d, J=7.6 Hz, 1H) 4.819 (s, 2H) 4.273-4.230 (m, 2H) 1.309-1.279 (m, 3H); MS m/z=217.2 (M+H)+.

reactant | 6-chloropyridazin-3-ol | 3.83 mmol, 0.5 g | ClC1=CC=C(N=N1)O | C4H3ClN2O
reactant | potassium carbonate | 7.66 mmol, 1.059 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromoacetate | 5.75 mmol, 0.960 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-chloro-6-oxopyridazin-1(6H)-yl)acetate | 0.5 g, 60.3% | ClC1=NN(C(C=C1)=O)CC(=O)OCC | C8H9ClN2O3
